US05494887
12. Preparation of 4-Hydrazino-2-methylthiopyrido[3,2-d]pyrimidine
Hydrazine hydrate (13.0 mL (13.3 g, 237 mmol)) was added at ambient temperature with stirring to a mixture of 16.7 g (79 mmol) of 4-chloro-2-methylthiopyrido[3,2-d]pyrimidine in 200 mL of ethanol. There was a slight exotherm and the mixture thickened and then became more mobile again. After 30 min, the volatile components were removed by evaporation under reduced pressure. The residue was diluted with water and the solids were recovered by filtration, washed with ether, and dried to obtain 15.7 g of the title compound as a brown powder melting above 300° C.

reactant | Hydrazine hydrate | 237 mmol, 13.0 mL, 13.3 g | O.NN
reactant | 4-chloro-2-methylthiopyrido[3,2-d]pyrimidine | 79 mmol, 16.7 g | ClC=1C2=C(N=C(N1)SC)C=CC=N2 | C8H6ClN3S
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Hydrazino-2-methylthiopyrido[3,2-d]pyrimidine | 15.7 g | N(N)C=1C2=C(N=C(N1)SC)C=CC=N2 | C8H9N5S
